US08791119B2
To a solution of 2.90 g (7.23 mmol) of tert-butyl 8-carbamoyl-6-chloro-7-(3-cyanophenyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate in 7 ml of dichloromethane are added slowly 7 ml (72 mmol) of trifluoroacetic acid. After stirring for 1 hour at room temperature, the solvent is evaporated off under reduced pressure, the residue is taken up in water and the aqueous phase is basified by addition of aqueous ammonia. The white solid formed is separated out by filtration, rinsed with water and triturated in acetonitrile to give 1.7 g of 6-chloro-7-(3-cyanophenyl)-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-8-carboxamide in the form of a white powder after separating out by filtration and drying under reduced pressure.

reactant | tert-butyl 8-carbamoyl-6-chloro-7-(3-cyanophenyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | 7.23 mmol, 2.90 g | C(N)(=O)C=1C(=C(N2C1CN(CC2)C(=O)OC(C)(C)C)Cl)C2=CC(=CC=C2)C#N | C20H21ClN4O3
reactant | trifluoroacetic acid | 72 mmol, 7 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | 6-chloro-7-(3-cyanophenyl)-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-8-carboxamide | 1.7 g | ClC1=C(C(=C2N1CCNC2)C(=O)N)C2=CC(=CC=C2)C#N | C15H13ClN4O
